US09388173B2
Step 2: 1-amino-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol
A solution of 2-(oxiran-2-ylmethyl)-1,2,3,4-tetrahydroisoquinoline (17 g, 0.09 mol) in EtOH (300 mL) had NH3 gas bubbled to the solution at −78° C. The reaction mixture was then sealed and heated to 80° C. for 3 h. After completion of the reaction, the mixture was concentrated and the resulting crude product used in next step without further purification (18 g, Yield 96%). LCMS (m/z): 207.1 [M+H]+.

reactant | 2-(oxiran-2-ylmethyl)-1,2,3,4-tetrahydroisoquinoline | 0.09 mol, 17 g | O1C(C1)CN1CC2=CC=CC=C2CC1 | C12H15NO
reactant | NH3 | N | H3N
solvent | EtOH | 300 mL | CCO | C2H6O
product | 1-amino-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | Yield 96% | NCC(CN1CC2=CC=CC=C2CC1)O | C12H18N2O
